US07122679B2
Dimethyl 1-(triisopropylsilyl)-1,6,7,8-tetrahydrocyclopent[g]indole-4,5-dicarboxylate
A 2:1 mixture of 2-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole and 3-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole (6.2 g, 21.4 mmol) and dimethyl acetylenedicarboxylate (6.2 g, 43.7 mmol) were heated to 110° C. for 22 h. More dimethyl acetylenedicarboxylate (6.2 g, 43.7 mmol) was added and heating was continued for 6 more h. The resulting orange-brown oil was dissolved in ether (25 mL) then treated with hexanes (50 mL). The same process was repeated 3 more times on the precipitate. The combined ether-hexane soluble fractions were evaporated in vacuo, then heated in vacuo to remove excess dimethyl acetylenedicarboxylate. The residue (3.3 g) was chromatographed (hexanes-ether 75:25) to give 490 mg (5.3% yield) product as a light orange oil. The same product was obtained in 10% yield from pure 2-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole. NMR (CDCl3) δ 7.44 (d, 1H), 7.05 (d, 1H), 3.97 (s, 3H), 3.92 (s, 3H), 3.20 (t, 2H), 3.11 (t, 3H), 2.09 (quintet, 2H), 1.70 (septet, 3H), 1.14 (d, 18H). MS m/e 430 (M+H)+. Anal. Calcd for C24H35NO4Si-0.5H2O: C, 65.71; H, 8.27; N, 3.19. Found: C, 65.51; H, 8.14; N, 2.83.

reactant | 2-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole | C1(=CCCC1)C=1N(C=CC1)[Si](C(C)C)(C(C)C)C(C)C | C18H31NSi
reactant | 3-(cyclopenten-1-yl)-1-(triisopropylsilyl)pyrrole | 21.4 mmol, 6.2 g | C1(=CCCC1)C1=CN(C=C1)[Si](C(C)C)(C(C)C)C(C)C | C18H31NSi
reactant | dimethyl acetylenedicarboxylate | 43.7 mmol, 6.2 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
reactant | dimethyl acetylenedicarboxylate | 43.7 mmol, 6.2 g | C(#CC(=O)OC)C(=O)OC | C6H6O4
solvent | ether | 25 mL | CCOCC | C4H10O
product | Dimethyl 1-(triisopropylsilyl)-1,6,7,8-tetrahydrocyclopent[g]indole-4,5-dicarboxylate | 490 mg, 5.3% yield | C(C)(C)[Si](N1C=CC2=C(C(=C3C(=C12)CCC3)C(=O)OC)C(=O)OC)(C(C)C)C(C)C | C24H35NO4Si
